US05994354
5-(4-Chlorophenyl)-2-furancarboxaldehyde [prepared as described in U.S. Pat. No. 4,882,354, to Huang et al. (assigned to Norwich Eaton Pharmaceuticals, Inc.,) issued Nov. 21, 1984; see cols. 7 & 8, hereby incorporated by reference] (3.92 g, 19.0 mmole) and 3-amino-5-(1-piperidinyl)methyl-2-oxazolidinone (3.78 g, 19.0 mole)[(prepared as described in U.S. Pat. No. 2,802,002 to Gever, (assigned to Norwich Eaton Pharmaceuticals, Inc. issued Aug. 6, 1957, see Example I, Part A, hereby incorporated by reference herein) in 150 ml of alcohol is treated with 3 ml of concentrated hydrochloric acid (pH ca. 3). The reaction mixture is stirred and heated at reflux for 2.5 hours. The mixture is chilled and filtered to give crude 3-[[[5-(4-chlorophenyl)-2-furanyl]methylene]amino]-5-(1-piperidinylmethyl)-2-oxazolidinone hydrochloride, which is purified by one recrystallization from nitromethane (activated charcoal) yielding 3.2 g.

reactant | 5-(4-Chlorophenyl)-2-furancarboxaldehyde | ClC1=CC=C(C=C1)C1=CC=C(O1)C=O | C11H7ClO2
reactant | 3-amino-5-(1-piperidinyl)methyl-2-oxazolidinone | 19.0 mole, 3.78 g | NN1C(OC(C1)CN1CCCCC1)=O | C9H17N3O2
reactant | hydrochloric acid | 3 ml, pH ca. 3 | Cl | ClH
product | 3-[[[5-(4-chlorophenyl)-2-furanyl]methylene]amino]-5-(1-piperidinylmethyl)-2-oxazolidinone hydrochloride | Cl.ClC1=CC=C(C=C1)C1=CC=C(O1)C=NN1C(OC(C1)CN1CCCCC1)=O | InChI=1S/C20H22ClN3O3.ClH/c21-16-6-4-15(5-7-16)19-9-8-17(26-19)12-22-24-14-18(27-20(24)25)13-23-10-2-1-3-11-23;/h4-9,12,18H,1-3,10-11,13-14H2;1H
